US06586441B2
4-Furan-2-yl-5-iodo-6-(2-morpholin-4-yl-ethoxy)-pyrimidin-2-yl-amine
From 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine, N-(2-hydroxyethyl)morpholine and DBU in THF. ES-MS m/e (%): 417 (M+H+, 100).

reactant | 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1I)S(=O)C)N | C9H8IN3O2S
reactant | N-(2-hydroxyethyl)morpholine | OCCN1CCOCC1 | C6H13NO2
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | C1CCOC1 | C4H8O
product | 4-Furan-2-yl-5-iodo-6-(2-morpholin-4-yl-ethoxy)-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1I)OCCN1CCOCC1)N | C14H17IN4O3
